US07348354B2
The more nonpolar diastereoisomer of (4-aminomethyl-1-phenyl-cyclohexyl)-dimethylamine (162.7 mg, 0.7 mmole) was added to a solution of [2-(1H-indol-3-yl)-1-methyl-ethyl]-carbamic acid phenyl ester (206 mg, 0.7 mmole) in dioxane (7 ml). The batch was then refluxed for 14 h. Working up was performed by pouring the reaction mixture into ice water (15 ml), adjusting the pH to 11 with 5M NaOH and extracting with ether (3×20 ml). The organic phase was dried with Na2SO4 and then evaporated. The residue was purified by flash chromatography on silica gel (30 g). Ethanol/EE (1:2, 400 ml) was used as eluent. The more nonpolar diastereoisomer of 1-(4-dimethylamino-4-phenyl-cyclohexylmethyl)-3-[2-(1H-indol-3-yl)-1-methyl-ethyl]-urea was obtained in this manner as a colorless solid with a melting point of 89-92° C. in a yield of 185 mg (61%).

reactant | (4-aminomethyl-1-phenyl-cyclohexyl)-dimethylamine | 0.7 mmole, 162.7 mg | NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C15H24N2
reactant | [2-(1H-indol-3-yl)-1-methyl-ethyl]-carbamic acid phenyl ester | 0.7 mmole, 206 mg | C1(=CC=CC=C1)OC(NC(CC1=CNC2=CC=CC=C12)C)=O | C18H18N2O2
reactant | NaOH | 5M | [OH-].[Na+]
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | 1-(4-dimethylamino-4-phenyl-cyclohexylmethyl)-3-[2-(1H-indol-3-yl)-1-methyl-ethyl]-urea | CN(C1(CCC(CC1)CNC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC=CC=C1)C | C27H36N4O
